US08729105B2
Preparation of 3-Trifluoromethyl-[1,2,4]oxadiazol-5-methanamine hydrochloride
To a solution of 0.29 g (3-trifluoromethyl-[1,2,4]oxadiazol-5-ylmethyl)-carbamic acid tert-butyl ester in 3 ml ethyl acetate was added 1.5 ml of a 4M solution of hydrochloric acid in dioxane and the mixture was stirred at ambient temperature for 18 h. The resulting clear solution was evaporated and the residue was triturated under ethyl acetate. The solid was collected by filtration and dried to constant weight under high vacuum to yield 0.145 g of the title compound as white crystals, 169.2 (M+H)+.

reactant | (3-trifluoromethyl-[1,2,4]oxadiazol-5-ylmethyl)-carbamic acid tert-butyl ester | 0.29 g | C(C)(C)(C)OC(NCC1=NC(=NO1)C(F)(F)F)=O | C9H12F3N3O3
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-Trifluoromethyl-[1,2,4]oxadiazol-5-methanamine hydrochloride | 0.145 g | Cl.FC(C1=NOC(=N1)CN)(F)F | InChI=1S/C4H4F3N3O.ClH/c5-4(6,7)3-9-2(1-8)11-10-3;/h1,8H2;1H
